US04997847
(ii) Ethyl 8-(4-chlorobenzenesulphonamido)-2,2-dimethyloctanoate
A mixture of 4-chlorobenzenesulphonamide (4.5 g), ethyl 8-bromo-2,2-dimethyloctanoate (3.3 g) and potassium carbonate (9.3 g) in dry methylethylketone (140 ml) was refluxed for 9 hours. The inorganic residues were removed by filtration and the filtrate was evaporated to dryness to give an oil. Chromatography on silica gel eluted with chloroform-petroleum ether 15:1 gave the title compound (1.05 g) as an oil.

reactant | 4-chlorobenzenesulphonamide | 4.5 g | ClC1=CC=C(C=C1)S(=O)(=O)N | C6H6ClNO2S
reactant | ethyl 8-bromo-2,2-dimethyloctanoate | 3.3 g | BrCCCCCCC(C(=O)OCC)(C)C | C12H23BrO2
reactant | potassium carbonate | 9.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | methylethylketone | 140 ml | CC(=O)CC | C4H8O
product | Ethyl 8-(4-chlorobenzenesulphonamido)-2,2-dimethyloctanoate | 1.05 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCCCC(C(=O)OCC)(C)C | C18H28ClNO4S
